US07439379B2
Under a nitrogen atmosphere, a solution of 2-(2-methyl-1,3-dioxolan-2-yl)-bromobenzene (1.22 g, 5.0 mmol) in tetrahydrofuran (7.3 g) was cooled to −10° C. and a solution of n-butyllithium in n-hexane (1.56 M, 3.4 mL) was added dropwise thereto. After keeping the temperature for 1 hr, a solution of 2,3,4,5-tetramethylcyclopentenone (0.73 g, 5.3 mmol) in tetrahydrofuran (4.9 g) was added dropwise to the mixture. After raising the temperature to 25° C., the mixture was stirred for 3 hrs. After quenching the reaction by addition of toluene and water, the aqueous layer was removed. The obtained organic layer was washed with saturated brine and then dried over sodium sulfate, and the solvent was removed. After concentration, the residue was washed with cooled hexane to give 1-(2-methyl-1,3-dioxolan-2-yl)-2-(1-hydroxy-2,3,4,5-tetramethyl-2-cyclopentenyl)benzene (0.53 g, yield 35.0%).

reactant | 2-(2-methyl-1,3-dioxolan-2-yl)-bromobenzene | 5.0 mmol, 1.22 g | CC1(OCCO1)C1=C(C=CC=C1)Br | C10H11BrO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,3,4,5-tetramethylcyclopentenone | 5.3 mmol, 0.73 g | CC=1C(C(C(C1C)C)C)=O | C9H14O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 7.3 g | O1CCCC1 | C4H8O
solvent | n-hexane | 1.56 M, 3.4 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 4.9 g | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-methyl-1,3-dioxolan-2-yl)-2-(1-hydroxy-2,3,4,5-tetramethyl-2-cyclopentenyl)benzene | 0.53 g, yield 35.0% | CC1(OCCO1)C1=C(C=CC=C1)C1(C(=C(C(C1C)C)C)C)O | C19H26O3
